US09328096B2
2-chloro-3-fluoro-6-(methoxymethyl)pyridine
To a suspension of sodium hydride (0.48 g, 12 mmol, 60% dispersion in mineral oil) in THF (15 mL) at 5° C. under nitrogen was added (6-chloro-5-fluoropyridin-2-yl)methanol (1.57 g, 9.28 mmol) suspended in THF (20 mL). The resulting suspension was stirred at this temperature for 30 minutes and then iodomethane (0.75 mL, 12 mmol) was added slowly. The reaction was warmed to room temperature over 48 hours. Further iodomethane was added (173 μL, 2.8 mmol) and stirring at room temperature was continued for 4 hours followed by the addition of further sodium hydride (110 mg, 2.75 mmol) at 5° C. The reaction was continued stirring for 24 hours before quenching with water (10 mL) and saturated aqueous ammonium chloride solution (20 mL) until pH=7. The solution was extracted with diethyl ether (3×50 mL). The organic layers were dried over sodium sulphate, and concentrated in vacuo. The residue was purified using silica gel column chromatography eluting with 20-50% DCM in pentane to afford the title compound (600 mg, 37% yield).

reactant | sodium hydride | 12 mmol, 0.48 g | [H-].[Na+]
reactant | (6-chloro-5-fluoropyridin-2-yl)methanol | 9.28 mmol, 1.57 g | ClC1=C(C=CC(=N1)CO)F | C6H5ClFNO
reactant | iodomethane | 12 mmol, 0.75 mL | IC | CH3I
reactant | sodium hydride | 2.75 mmol, 110 mg | [H-].[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-chloro-3-fluoro-6-(methoxymethyl)pyridine | 600 mg, 37% yield | ClC1=NC(=CC=C1F)COC | C7H7ClFNO
